US07199105B2
To a stirred solution of DAST (1.06 g, 6.58 mmol) in DCM (10 mL) at −78° C., 4-allyl-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (940 mg, 3.3 mmol) in dry DCM (10 mL) was added slowly. The mixture was then stirred at −78° C. for 1 h, then at −10° C. for an additional 1 h. DCM (50 mL) was added, quenched with NH4Cl (10%, 150 mL) and the organic layer was separated, dried over sodium sulfate and evaporated to dryness. The residue obtained on removal of solvent was purified by silica gel column chromatography using 5% EtOAc in hexanes as eluent to obtain 4-allyl-4-fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (330 mg, 34%).

reactant | DAST | 6.58 mmol, 1.06 g | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | 4-allyl-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 3.3 mmol, 940 mg | COC(=O)C1N(CC(C1)(O)CC=C)C(=O)OC(C)(C)C | C14H23NO5
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-allyl-4-fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 330 mg, 34% | COC(=O)C1N(CC(C1)(F)CC=C)C(=O)OC(C)(C)C | C14H22FNO4
